US04405735
2,7,7,9,9-Pentamethyl-2-isopropyl-8-(2,3-dihydroxypropyl)-1-oxa-4,8-diaza-spiro[4.5]decan-3-one
26.8 g (0.1 mole) of 2,7,7,9,9-pentamethyl-2-isopropyl-1-oxa-4,8-diaza-spiro[4.5]decan-3-one and 7.4 g (0.1 mole) of glycidol in 60 ml of hexanol were stirred for 65 hours at 140° C. in a stirring apparatus, using as catalyst 3 drops of concentrated HCl. The mixture was then evaporated on a rotary evaporator and the residue was recrystallized from xylene/methanol.

reactant | 2,7,7,9,9-pentamethyl-2-isopropyl-1-oxa-4,8-diaza-spiro[4.5]decan-3-one | 0.1 mole, 26.8 g | CC1(OC2(NC1=O)CC(NC(C2)(C)C)(C)C)C(C)C | C15H28N2O2
reactant | glycidol | 0.1 mole, 7.4 g | C1C(O1)CO | C3H6O2
solvent | hexanol | 60 ml | C(CCCCC)O | C6H14O
catalyst | HCl | 3 drops | Cl | ClH
product | 2,7,7,9,9-Pentamethyl-2-isopropyl-8-(2,3-dihydroxypropyl)-1-oxa-4,8-diaza-spiro[4.5]decan-3-one | CC1(OC2(NC1=O)CC(N(C(C2)(C)C)CC(CO)O)(C)C)C(C)C | C18H34N2O4
